*sub_0_8T1C
****************************************
* Type     : hspice
* Tool     : AETHER-SE
* Date     : Tue May 26 23:19:23 2026
* User     : siduser30
* Top Design : 8T1C/8T1C/schematic
****************************************

****************************************
* Library : 8T1C
* Cell    : 8T1C
* View    : schematic
****************************************

.SUBCKT sub_0_8T1C clk clkb input output reset vss
m7 clk pu output ntft L=5u W=850u
m6 output pd vss ntft L=5u W=430u
m5 output reset vss ntft L=5u W=360u
m4 pd pu vss ntft L=5u W=280u
m3 clkb clkb pd ntft L=5u W=70u
m2 pu pd vss ntft L=5u W=180u
m1 pu reset vss ntft L=5u W=180u
m0 input input pu ntft L=5u W=300u
CC0 pu output 1p
.ENDS sub_0_8T1C

